US08044068B2
A mixture of 2-chloro-6-methyl-4-trifluoromethylpyridine (0.196 g), (S)-1-benzyl-3-aminopyrrolidine (0.529 g), diethylene glycol (4 mL), and N,N-diisopropylethylamine (0.52 mL) was heated at 140° C. for 2 h using a microwave reaction apparatus. After completion of the reaction, water and ethyl acetate were added to the reaction solution, the mixture was extracted with ethyl acetate, washed with saturated brine, and then dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and then the crude product obtained by concentration under reduced pressure was purified by silica gel column chromatography (silica gel, hexane/ethyl acetate=5:1-2:1) to obtain (S)-N-(1-benzylpyrrolidin-3-yl)-6-methyl-4-trifluoromethylpyridin-2-amine (0.082 g).

reactant | 2-chloro-6-methyl-4-trifluoromethylpyridine | 0.196 g | ClC1=NC(=CC(=C1)C(F)(F)F)C | C7H5ClF3N
reactant | (S)-1-benzyl-3-aminopyrrolidine | 0.529 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
reactant | diethylene glycol | 4 mL | C(COCCO)O | C4H10O3
reactant | N,N-diisopropylethylamine | 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-N-(1-benzylpyrrolidin-3-yl)-6-methyl-4-trifluoromethylpyridin-2-amine | 0.082 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=NC(=CC(=C1)C(F)(F)F)C | C18H20F3N3
